US06476055B1
5-Methyl-5-phenyl-3-phenylamino-2-thioxothiazolidin-4-one (0.28 g) was mixed with a 1M methylene chloride solution of triethyloxonium tetrafluoroborate (1 ml) at room temperature. The reaction mixture was stirred for 24 hrs at room temperature then p-chloroaniline (0.25 g) in chloroform (10 ml) was added to the mixture at 0° C. The mixture was stirred at room temperature for 1 hr and then water was added. The separated oil was extracted with chloroform. The chloroform layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by column chromatography (chloroform-n-hexane, 1/1) to yield 2-(4-chlorophenyl)imino-5-methyl-5-phenyl-3-phenylaminothiazolidin-4-one (0.21 g) having a melting point of 53-54° C.

reactant | 5-Methyl-5-phenyl-3-phenylamino-2-thioxothiazolidin-4-one | 0.28 g | CC1(C(N(C(S1)=S)NC1=CC=CC=C1)=O)C1=CC=CC=C1 | C16H14N2OS2
reactant | methylene chloride | 1M | C(Cl)Cl | CH2Cl2
reactant | triethyloxonium tetrafluoroborate | 1 ml | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | p-chloroaniline | 0.25 g | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 2-(4-chlorophenyl)imino-5-methyl-5-phenyl-3-phenylaminothiazolidin-4-one | 0.21 g | ClC1=CC=C(C=C1)N=C1SC(C(N1NC1=CC=CC=C1)=O)(C1=CC=CC=C1)C | C22H18ClN3OS
